Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___ / ___
 
Attending: ___
 
Chief Complaint:
perianal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ man with history of hypertension who 
presents with perianal pain and purulent discharge.

Patient states that he has had longstanding problems with 
"hemorrhoids".  He reports that for the past ___ years, he has 
had intermittent sensation of "swelling" and "rectal pain" with 
defecation. This lasted for a few weeks followed by drainage of 
pus from the rectal areas, followed by some asymptomatic months. 
However for the past month, he has felt significant pain and 
irritation, worse with sitting.  He also see bloody drainage 
occasionally from the anal area.  In the past, he was seen at 
___ ED in ___ for possibly possibly thrombosed painful 
internal hemmorhoid. He reports he has tried Anusol HC 
suppository without relief.  He works using computers and 
therefore is quite sedentary at work. He was recently seen by 
his PCP ___ ___ due to worsening pain and purulent discharge. His 
doctor prescribed him augmentin and mupriocin, as well as derm 
referral. HIV and RPR negative at that time. The patient states 
that the symptoms have not improved. He denies any history of 
receptive anal intercourse, Crohn's disease, ulcerative colitis, 
fevers, chills, abdominal pain, dysuria, hematuria, diarrhea. 
Patient denies any similar pustules in his inguinal region or 
armpits. No family history of Crohn's disease. Patient reports 
exquisite pain with defecation.

 In the ED, initial VS were: 99.9 96 148/102 16 100% RA 
  
 ED physical exam was recorded as multiple pustules along the 
left buttock crease

ED labs were notable for WBC 13.7
 CT pelvis showed soft tissue thickening in the perianal region 
and extending along the left buttock, without fluid collection.

 Patient was given 1g Tylenol and vancomycin 1gm

Transfer VS were 98.0 67 141/91 18 100% RA 
  
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
HYPERTENSION  
SICKLE CELL TRAIT  
ASTHMA  
HEMORRHOIDS  
OBESITY  
KELOID  
H/O TOBACCO ABUSE  
H/O ACL TEAR  
H/O BACK PAIN  
 
Social History:
___
Family History:
-Mother: ___
-Grandmother: Lung Cancer (still alive)
 
Physical Exam:
ADMISSION & DISCHARGE EXAM:

 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin:  Multiple nodular/pustular lesions on the left ___ 
region extending to the gluteal folds. Some of these are 
erythematous and draining pus. On the right perianal region at 6 
o clock, there is also an area of condylomatous lesions, with no 
pus. No anal fissures observed.  No external hemorrhoid 
observed. There are keloid lesions in the pubic area
 Neuro: AAOx3. No facial droop.
 
Pertinent Results:
___ 12:10AM URINE  HOURS-RANDOM
___ 12:10AM URINE  UHOLD-HOLD
___ 12:10AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:10AM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:10AM URINE  MUCOUS-RARE
___ 11:24PM   estGFR-Using this

 CT
Soft tissue thickening in the perianal region and extending 
along the left buttock, without fluid collection. 

 
Brief Hospital Course:
Mr. ___ is a ___ man with history of hypertension 
who presents with perianal pain and purulent discharge.  He has 
had a history of multiple ___ lesions for ___ years 
(pustules with some drainage and warts) and discussed this with 
his PCP for the first time last week.  He was prescribed a 
course of augmentin, which he nearly completed, and referred to 
Dermatology urgently for consideration of biopsy and further 
evaluation.  Given the weather, his outpatient appointment was 
canceled so presented to the ED and was admitted.  He had no 
worsening symptoms from the ___ years of his chronic lesions, with 
the exception of pain relieved with ibuprofen.  He denied any 
fevers, chills, or sweats.  His exam did not reveal s/s 
cellulitis and CT was negative for an abscess.  His dermatology 
appt was rescheduled for the following morning, so he was 
discharged a few hours after admission in stable condition with 
instructions to keep his Dermatology appointment.  No changes 
were made to his medications. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ lesions, chronic
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for ongoing pain due to the lesions in the 
___ area.  You have an appointment with Dermatology 
tomorrow AM - it is very important you keep this appointment so 
these lesions can be evaluated. 

Please complete the antibiotics Dr. ___ for you last 
week.  

No other changes were made to your medications.

We wish you the best,
___ Team
 
Followup Instructions:
___